US07419999B2
Intermediate 35.1. Dimethyl 6-chloro-2-oxohexylphosphonate
To a solution of dimethyl methylphosphonate (2.16 mL, 20 mmol) in anhydrous THF (30 mL), cooled at −78° C. was added n-BuLi (1.6 M in hexane, 13.75 mL, 22 mmol). The mixture was stirred for 30 minutes at this temperature under nitrogen. Methyl 5-chloropentanoate (1.50 g, 10 mmol) was added dropwise for 10 minutes. The mixture was stirred for 2 hours at −78° C., gradually was warm to room temperature. The mixture was quenched with addition of 1N HCl to pH 4-5. The organic layer was separated, washed with brine and dried over MgSO4. The residue was purified through flash chromatography on silica gel (MeOH:CH2Cl2=2:98) to give the product (1.60 g) with colorless oil in 17% yield. 1HNMR (CDCl3, ppm) δ 1.76 (m, 6H), 2.67 (t, J=6.6 Hz, 2H), 3.01 (d, J=21.7 Hz, 2H), 3.35 (t, J=6.2 Hz, 2H), 3.76 (s, 3H), 3.79 (s, 3H).

reactant | dimethyl methylphosphonate | 20 mmol, 2.16 mL | CP(OC)(OC)=O | C3H9O3P
reactant | n-BuLi | 22 mmol, 1.6 M, 13.75 mL | [Li]CCCC
reactant | Methyl 5-chloropentanoate | 10 mmol, 1.50 g | ClCCCCC(=O)OC | C6H11ClO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Dimethyl 6-chloro-2-oxohexylphosphonate | 1.60 g, 17% yield | ClCCCCC(CP(OC)(OC)=O)=O | C8H16ClO4P
